US08017613B2
A suitable sulfonyl chloride is added (1.2 mM) to a solution of (S)-1-(3-aminophenoxy)-2-acetoxy-3-[4-(4-methoxyphenylsulfonyl)piperazin-1-yl)propane (1 mM) in CH2Cl2 (1.2 ml) and pyridine (0.5 ml). The mixture is shaken at room temperature up to the completion of the reaction. It is then diluted with CH2Cl2, and washed with saturated aqueous solution of Na2CO3 and then with water. The organic phase is dried with anhydrous Na2SO4, filtered and the solvent is distilled under vacuum. (S)-2-acetoxy-3-[4-(4-methoxyphenylsulfonyl)piperazin-1-yl]-1-(3-sulfonylaminophenoxy)propane is obtained.

reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (S)-1-(3-aminophenoxy)-2-acetoxy-3-[4-(4-methoxyphenylsulfonyl)piperazin-1-yl)propane | 1 mM | NC=1C=C(OC[C@H](CN2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)OC)OC(C)=O)C=CC1 | C22H29N3O6S
solvent | CH2Cl2 | 1.2 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | (S)-2-acetoxy-3-[4-(4-methoxyphenylsulfonyl)piperazin-1-yl]-1-(3-sulfonylaminophenoxy)propane | C(C)(=O)O[C@H](COC1=CC(=CC=C1)N=S(=O)=O)CN1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H27N3O8S2
